US04659726
1-Ethylpyrrole-2-carbothioamide obtained in Reference Example 1 (1.85 g, 12 mmole) and α-bromo-4,4'-dimethoxydeoxybenzoin (cf. Aust. J. Chem., 8, 385, 1955) (4.02 g, 12 mmole) are dissolved in acetonitrile (120 ml), and the mixture is stirred at 60° C. for 50 minutes. After the reaction, the mixture is distilled under reduced pressure to remove the solvent. To the residue are added chloroform and aqueous sodium carbonate, and the mixture is shaken. The chloroform layer is taken, and the aqueous layer is further extracted with chloroform. The chloroform layers are combined, dried over anhydrous magnesium sulfate, and distilled under reduced pressure to remove the solvent. The residue is recrystallized from n-hexane to give 4,5-bis(4-methoxyphenyl)-2-(1-ethylpyrrol-2-yl)thiazole (3.6 g, yield: 77%).

reactant | 1-Ethylpyrrole-2-carbothioamide | C(C)N1C(=CC=C1)C(N)=S | C7H10N2S
reactant | α-bromo-4,4'-dimethoxydeoxybenzoin | 12 mmole, 4.02 g | BrC(C(C1=CC=C(C=C1)OC)=O)C1=CC=C(C=C1)OC | C16H15BrO3
solvent | acetonitrile | 120 ml | C(C)#N | C2H3N
product | 4,5-bis(4-methoxyphenyl)-2-(1-ethylpyrrol-2-yl)thiazole | 3.6 g, yield: 77% | COC1=CC=C(C=C1)C=1N=C(SC1C1=CC=C(C=C1)OC)C=1N(C=CC1)CC | C23H22N2O2S
